US09290500B2
2-(1-naphthyl)-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylic acid (2.00 g, 6.55 mmol) is stirred in dimethyl sulfoxide (5.06 mL, 71.2 mol) in a 350 mL sealed reaction vessel. Sodium chloride (0.545 g, 9.33 mol) is dissolved in water (2.26 mL) and added to the reaction mixture. The reaction is heated at 150° C. for 3 days during which time an additional 8 mL of DMSO is added along with 15 mL of additional water. The resulting precipitate is collected in a Buchner funnel to provide 2-(naphthalen-1-yl)pyrazolo[1,5-a]pyrimidin-7(4H)-one (1.48 g, 87%). LCMS: (AA) M+1 262.

reactant | 2-(1-naphthyl)-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 6.55 mmol, 2.00 g | C1(=CC=CC2=CC=CC=C12)C1=NN2C(NC=C(C2=O)C(=O)O)=C1 | C17H11N3O3
reactant | dimethyl sulfoxide | 71.2 mol, 5.06 mL | CS(=O)C | C2H6OS
reactant | Sodium chloride | 9.33 mol, 0.545 g | [Cl-].[Na+]
reactant | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | water | 2.26 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 2-(naphthalen-1-yl)pyrazolo[1,5-a]pyrimidin-7(4H)-one | 1.48 g, 87% | C1(=CC=CC2=CC=CC=C12)C1=NN2C(NC=CC2=O)=C1 | C16H11N3O
